US07375227B2
404A. 1-{2-[3-(2-Methyl-quinolin-4-yl)-ureido]-ethyl}-piperidine-4-carboxylic acid dihydrochloride
1-{2-[3-(2-Methyl-quinolin-4-yl)-ureido]-ethyl}-piperidine-4-carboxylic acid ethyl ester (0.9 g, 2.3 mmol) is dissolved in 6N aqueous HCl (10 mL) and the mixture is heated at 50° C. for 48 h. The reaction mixture is evaporated and the residue is dried to provide the title compound as hydrochloride salt.

reactant | 1-{2-[3-(2-Methyl-quinolin-4-yl)-ureido]-ethyl}-piperidine-4-carboxylic acid ethyl ester | 2.3 mmol, 0.9 g | C(C)OC(=O)C1CCN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C21H28N4O3
reactant | HCl | 6N, 10 mL | Cl | ClH
product | 1-{2-[3-(2-Methyl-quinolin-4-yl)-ureido]-ethyl}-piperidine-4-carboxylic acid dihydrochloride | Cl.Cl.CC1=NC2=CC=CC=C2C(=C1)NC(NCCN1CCC(CC1)C(=O)O)=O | InChI=1S/C19H24N4O3.2ClH/c1-13-12-17(15-4-2-3-5-16(15)21-13)22-19(26)20-8-11-23-9-6-14(7-10-23)18(24)25;;/h2-5,12,14H,6-11H2,1H3,(H,24,25)(H2,20,21,22,26);2*1H
